US06680317B2
e) 6-Amino-3-chloro-2-(homopiperazine-1-sulfonyl)-phenol
To a solution of 2-tert-Butyl-6-chloro-7-(homopiperazine-1-sulfonyl)-benzooxazole (2.0 g, 4.24 mmol) in 1,4-dioxane (56 mL) was treated with water (3.5 mL) and conc. H2SO4 (3.5 mL). The mixture was heated to 100° C. for 16 h. The reaction was cooled to room temperature, and then basified to pH=14 with 25% aq NaOH. washed. The mixture was extracted with ethyl acetate (3 times), dried with MgSO4, filtered, and concentrated to afford the title compound (1.04 g, 80%). EI-MS m/z 306.2(M+).

reactant | 2-tert-Butyl-6-chloro-7-(homopiperazine-1-sulfonyl)-benzooxazole | 4.24 mmol, 2.0 g | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)N2CCNCCC2)Cl | C16H22ClN3O3S
reactant | water | 3.5 mL | O | H2O
reactant | H2SO4 | 3.5 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | 1,4-dioxane | 56 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-3-chloro-2-(homopiperazine-1-sulfonyl)-phenol | 1.04 g, 80% | NC1=CC=C(C(=C1O)S(=O)(=O)N1CCNCCC1)Cl | C11H16ClN3O3S
